US07501447B2
Step F. 2-tert-Butyl-1-(cyclohexylmethyl)-N-methyl-1H-benzimidazol-5-amine
Methyl[2-tert-butyl-1-(cyclohexylmethyl)-1H-benzimidazol-5-yl]carbamate (650 mg, 1.89 mmol) was dissolved in 20 mL of THF at 0° C. under nitrogen. 1M HCl/ether (2.65 mL, 2.65 mmol) was added dropwise and the solution stirred at 0° C. for 15 min. LiAlH4 (360 mg, 9.45 mmol) was then slowly added and the solution stirred at RT overnight. The reaction mixture was quenched at 0° C. by addition of MeOH (5 mL) followed by water (10 mL). The solution was diluted with EtOAc and washed with saturated NaHCO3 aqueous solution, brine and dried over anhydrous MgSO4. The solvent was evaporated and the product was used directly in the next step without further purification. Yield: 544 mg (96%). 1H NMR (400 MHz, CHLOROFORM-D) δ 1.08 (m, 2H), 1.17 (m, 3H), 1.53 (s, 9H), 1.64 (s, 2H), 1.67 (s, 2H), 1.72 (m, 2H), 2.02 (m, 1H), 2.86 (s, 3H), 4.06 (d, J=7.42 Hz, 2H), 6.60 (dd, J=8.69, 2.25 Hz, 1H), 6.99 (d, J=2.15 Hz, 1H), 7.12 (d, J=8.59 Hz, 1H).

reactant | Methyl[2-tert-butyl-1-(cyclohexylmethyl)-1H-benzimidazol-5-yl]carbamate | 1.89 mmol, 650 mg | COC(NC1=CC2=C(N(C(=N2)C(C)(C)C)CC2CCCCC2)C=C1)=O | C20H29N3O2
reactant | HCl ether | 2.65 mmol, 1M, 2.65 mL | Cl.CCOCC
reactant | LiAlH4 | 9.45 mmol, 360 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-tert-Butyl-1-(cyclohexylmethyl)-N-methyl-1H-benzimidazol-5-amine | C(C)(C)(C)C1=NC2=C(N1CC1CCCCC1)C=CC(=C2)NC | C19H29N3
